US08835659B2
Preparation of 5-(4,6-dihydroxy-1-benzofuran-2-yl)benzene-1,2,3-triol, with the Following Structural Formula
This compound was prepared using Method A from 3,5-dimethoxyphenol and 2-bromo-1-(3,4,5-trimethoxyphenyl)ethanone: Yield 62% following procedures A.2 and A.5; m.p. 260° C. (dec.); IR 3442, 3326, 1600, 1539, 1470, 1313, 1197, 1072, 1037 cm−1; 1H NMR (500 MHz, δ ppm, DMSO-d6) 9.67 (s, 1H), 9.22 (s, 1H), 8.97 (s, 2H), 8.29 (s, 1H), 6.81 (s, 1H), 6.69 (s, 2H), 6.37 (s, 1H), 6.14 (s, 1H); 13C NMR (75 MHz, δ ppm, CD3OD) 158.3, 157.3, 155.0, 151.9, 147.4, 134.8, 123.8, 113.1, 104.8, 98.7, 97.7, 90.8.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 2-bromo-1-(3,4,5-trimethoxyphenyl)ethanone | BrCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H13BrO4
product | 5-(4,6-dihydroxy-1-benzofuran-2-yl)benzene-1,2,3-triol | Yield 62% | OC1=CC(=CC2=C1C=C(O2)C=2C=C(C(=C(C2)O)O)O)O | C14H10O6
